US04923984
A solution of 4.87 g (23.73 mM) of methyl 4-(2-aminophenyl)-4-oxo-2-butenoate in 120 ml of methanol and 6 ml of water is hydrogenated in the presence of 974 mg of 10% Pd-C at room temperature under atmospheric pressure. After removal of the catalyst, the mixture is concentrated to give a residue, which is chromatographed on a column of silica gel (274 g), eluting with toluene-ethyl acetate (30:1-19:1 v/v) to give 3.746 g of methyl 4-(2-aminophenyl)-4-oxobutyrate as orange crystals. This is recrystallized from Et2O-n-hexane to give 3.162 g (Yield: 64.3%) melting at 50.0°-51.0° C. as yellow crystals.

reactant | methyl 4-(2-aminophenyl)-4-oxo-2-butenoate | 23.73 mM, 4.87 g | NC1=C(C=CC=C1)C(C=CC(=O)OC)=O | C11H11NO3
solvent | methanol | 120 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
catalyst | Pd-C | 974 mg | [Pd] | Pd
product | methyl 4-(2-aminophenyl)-4-oxobutyrate | 3.746 g, Yield: 64.3% | NC1=C(C=CC=C1)C(CCC(=O)OC)=O | C11H13NO3
